US04927926
A mixture of 0.7 g (2.6 mmoles) of 1-cyclopropyl-6,7-difluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid, 0.92 g (3.96 mmoles) of 3-methyl-3-trifluoroacetamidomethylazetidine hydrochloride and 1.6 g of triethylamine are heated under reflux for 2 hours in 12 ml of pyridine. The mixture is evaporated, water is added, the product is filtered, and 1.05 g (90%) of 1-cyclopropyl-6-fluoro-7-(3-trifluoroacetamidomethyl-3-methyl-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid are obtained, melting at 265°-72° C.

reactant | 1-cyclopropyl-6,7-difluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 2.6 mmoles, 0.7 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
reactant | 3-methyl-3-trifluoroacetamidomethylazetidine hydrochloride | 3.96 mmoles, 0.92 g | Cl.CC1(CNC1)CNC(C(F)(F)F)=O
reactant | triethylamine | 1.6 g | C(C)N(CC)CC | C6H15N
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | 1-cyclopropyl-6-fluoro-7-(3-trifluoroacetamidomethyl-3-methyl-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.05 g, 90% | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(C1)(C)CNC(C(F)(F)F)=O)F)=O)C(=O)O | C20H19F4N3O4
